US08426411B2
Oxalyl chloride (4.37 mL, 49.9 mmol) was slowly added to a solution of 4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid (7.34 g, 22.7 mmol) in DCM (100 mL), (note: mild gas evolution) followed by a dropwise addition of DMF (0.26 mL, 3.41 mmol). The mixture was stirred at ambient temperature for about 14 h. The solvent was removed under reduced pressure to yield a beige amorphous solid, which was dissolved in THF and MeCN (1:1, 100 mL). The resulting solution was added to a solution of trimethylsilyldiazomethane (2 M in Et2O, 39.7 mL, 79 mmol) in THF and MeCN (1:1, 100 mL) at about 0° C. The resulting mixture was stirred at about 0° C. for about 3 h and then was quenched by a dropwise addition of HBr (48% aqueous, 25 mL, 221 mmol). The resulting mixture was neutralized by a dropwise addition of saturated aqueous NaHCO3 (300 mL) and the layers were separated. The organic layer was dried over anhydrous MgSO4 and concd under reduced pressure. The residue was purified by silica gel chromatography eluting with 5% to 45% of EtOAc in heptane to yield 2-bromo-1-(4-(dibenzylamino)-2-methylcyclopentyl)ethanone (6.3 g, 69%) as a yellow oil: LC/MS (Table 1, Method a) Rt=2.90 min; MS m/z 400, 402 (M+H)+.

reactant | Oxalyl chloride | 49.9 mmol, 4.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid | 22.7 mmol, 7.34 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)O)C)CC1=CC=CC=C1 | C21H25NO2
reactant | DMF | 3.41 mmol, 0.26 mL | CN(C)C=O | C3H7NO
reactant | trimethylsilyldiazomethane | 79 mmol, 2 M, 39.7 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | 221 mmol, 25 mL | Br | BrH
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | MeCN | 100 mL | CC#N | C2H3N
solvent | MeCN | 100 mL | CC#N | C2H3N
product | 2-bromo-1-(4-(dibenzylamino)-2-methylcyclopentyl)ethanone | 6.3 g, 69% | BrCC(=O)C1C(CC(C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C | C22H26BrNO
